US04959364
Preparation of 4-(1-oxo-2-propenyl)morpholine
A solution of morpholine (8.7 g, 0.1 mole) and triethylamine (15.3 ml, 0.1 mole) in ethyl ether (100 ml) was cooled to +5° C. A solution of acryloyl chloride (9.0 g, 0.10 mole) in 25 ml of ethyl ether was added dropwise over a 30 minute period, resulting in the formation of a white solid. An additional 100 ml of ethyl ether was added and the reaction stirred for 72 hours at room temperature. The white solid was filtered and washed well with ethyl ether. The ethyl ether wash and filtrate were combined and solvent removed, leaving an orange oil which was transferred to a 50 ml Erlenmeyer flask and dried overnight under nitrogen to yield 11.5 g of product. The structure was confirmed by NMR.

reactant | morpholine | 0.1 mole, 8.7 g | N1CCOCC1 | C4H9NO
reactant | triethylamine | 0.1 mole, 15.3 ml | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 0.10 mole, 9.0 g | C(C=C)(=O)Cl | C3H3ClO
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4-(1-oxo-2-propenyl)morpholine | 11.5 g | O=C(C=C)N1CCOCC1 | C7H11NO2
